US07157488B2
N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine
Combine 2-(3-chlorophenyl)ethylamine (1.866 gm; 15.28 mmol) and 3-hydroxybenzaldehyde (1.567 gm; 10.07 mmol) in 40 mL of methanol and stir at room temperature for 20 min and treat with sodium borohydride (0.950 gm; 25.1 mmol) in one portion. Stir the mixture at room temperature. After 15 h, add water (10 mL), and remove the methanol by rotary evaporation. Add to this slurry water (25 mL) and dichloromethane (50 mL), separate the layers and extract the aqueous layer with dichloromethane (50 mL). Wash the combined organic layers with saturated brine (3×), dry over MgSO4, and concentrate to give the title compound.

reactant | 2-(3-chlorophenyl)ethylamine | 15.28 mmol, 1.866 gm | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | 3-hydroxybenzaldehyde | 10.07 mmol, 1.567 gm | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | sodium borohydride | 25.1 mmol, 0.950 gm | [BH4-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine | ClC=1C=C(C=CC1)CCNCC1=CC(=CC=C1)O | C15H16ClNO
